US06187777B1
6,7-Diphenyl-4-piperidylpyrrolo[3,2-d]pyrimidine Hydrochloride Hydrate.
Using the method described in Example 30 by employing (1,2-diphenylvinyl)pyrrolidine (freshly prepared before use) (1.85 g, 7.43 mmol), 4,6-dichloro-5-nitropyrimidine (Aldrich Chemical Company) (1.40 g, 7.43 mmol), N,N-diisopropylethyl amine (Aldrich Chemical Company) (1.3 mL, 7.43 mmol), piperidine (1.2 mL, 11.9 mmol), NEt3 (Aldrich Chemical Company) (2.0 mL) and SnCl2 (Aldrich Chemical Company) (22 mL of a 2M solution in DMF). The residue was purified by flash chromatography on silica gel with 95:5 CHCl3:MeOH as elutant to give 258 mg (10%) of the free base as a brown colored sandy solid. 1H NMR (DMSO-d6; 400 MHz): δ 1.66 (br s, 6), 3.75 (br s, 4), 7.19 (t, 1, J=7.3), 7.29 (t, 2, J=7.7), 7.42-7.47 (m, 7), 8.30 (s, 1), 11.38 (s, 1). MS m/z: 355 (M+1). To a solution of 6,7-diphenyl-4-piperidylpyrrolo[3,2-d]pyrimidine (0.26 g, 0.73 mmol) in 4:1 EtOAc: MeOH (30 mL) was added 1M etheral HCl (Aldrich Chemical Company) (730 mL, 0.73 mmol). The precipitate was collected by filtration, washed with ether (3×15 mL) and dried under vacuum to give 258 mg (91%) of the title compound as a beige colored solid. Mp: 266-268.5° C. 1H NMR (DMSO-d6; 400 MHz): δ 1.73 (br s, 6), 4.09 (br s, 4), 7.29 (d, 2, J=6.7), 7.37-7.44 (m, 8), 8.50 (s, 1), 12.42 (s, 1), 14.15 (s, 1). MS m/z: 355 (M+1). Anal. Calcd for C23H22N4.HCl.0.25H2O: C, 69.92; H, 5.99; N, 14.18; Cl, 8.97. Found C, 69.92; H, 6.01; N, 13.86; Cl, 9.37.

reactant | 6,7-diphenyl-4-piperidylpyrrolo[3,2-d]pyrimidine | 0.73 mmol, 0.26 g | C1(=CC=CC=C1)C1CC(CCN1)C1=NC=C2C(N1)=C(C=N2)C2=CC=CC=C2 | C23H22N4
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 0.73 mmol, 1M, 730 mL | Cl | ClH
solvent | MeOH | 30 mL | CO | CH4O
product | 6,7-Diphenyl-4-piperidylpyrrolo[3,2-d]pyrimidine Hydrochloride Hydrate | 258 mg, 91% | O.Cl.C1(=CC=CC=C1)C1CC(CCN1)C1=NC=C2C(N1)=C(C=N2)C2=CC=CC=C2 | InChI=1S/C23H22N4.ClH.H2O/c1-3-7-16(8-4-1)19-14-25-21-15-26-23(27-22(19)21)18-11-12-24-20(13-18)17-9-5-2-6-10-17;;/h1-10,14-15,18,20,24H,11-13H2,(H,26,27);1H;1H2
